*Custom Compiler Version N-2017.12-SP1-2
*Sun May 24 15:46:45 2026

*.SCALE METER
*.LDD
.GLOBAL gnd! vdd!
********************************************************************************
* Library          : new_dff
* Cell             : D_latch
* View             : schematic
* View Search List : auCdl schematic symbol
* View Stop List   : auCdl
********************************************************************************
.subckt D_latch CLK CLKB D Q
*.PININFO CLK:I CLKB:I D:I Q:O
MM33 Q n2 gnd! gnd! N w=0.18u l=0.1u nf=1 m=1
MM31 n2 n1 gnd! gnd! N w=0.12u l=0.1u nf=1 m=1
MM35 Q CLKB n1 gnd! N w=0.12u l=0.1u nf=1 m=1
MM27 D CLK n1 gnd! N w=0.18u l=0.1u nf=1 m=1
MM36 Q CLK n1 vdd! P w=0.2u l=0.1u nf=1 m=1
MM23 n2 n1 vdd! vdd! P w=0.3u l=0.1u nf=1 m=1
MM19 D CLKB n1 vdd! P w=0.28u l=0.1u nf=1 m=1
MM25 Q n2 vdd! vdd! P w=0.42u l=0.1u nf=1 m=1
.ends D_latch


